US06130217
2-Methyl-benzoxazol-6-ol
4-Aminoresorcinol hydrochloride (2.0 g, 12.4 mM), acetyl chloride (1.0 g, 12.6 mM), triethylamine (1.38 g, 13.6 mM) and pyridinium-p-toluenesulfonate (PPTS, 800 mg, 3.2 mM) were refluxed in xylenes (50 mL) for about 18 hours. Additional PPTS (300 mg) was added and the mixture was then refluxed about 48 hours. The reaction mixture was concentrated and the residue dissolved in ethyl acetate (200 mL) and washed with H2O (3×150 mL). The combined aqueous layer was back extracted with ethyl acetate (200 mL) and the combined organic layers were dried over MgSO4. Filtration and concentration provided 1.36 g. Filtration through a silica gel column eluted with 10% methanol/methylene chloride provided an orange solid, 0.3 g; m.p., 94-96° C.

reactant | 4-Aminoresorcinol hydrochloride | 12.4 mM, 2.0 g | Cl.NC1=C(C=C(O)C=C1)O
reactant | acetyl chloride | 12.6 mM, 1.0 g | C(C)(=O)Cl | C2H3ClO
reactant | pyridinium-p-toluenesulfonate | 3.2 mM, 800 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | PPTS | 300 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | triethylamine | 13.6 mM, 1.38 g | C(C)N(CC)CC | C6H15N
product | 2-Methyl-benzoxazol-6-ol | CC=1OC2=C(N1)C=CC(=C2)O | C8H7NO2
